Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
 Mr. ___ is a ___ male with DM, ESRD on HD (TThSa) who is 
being admitted for management of a R AC cellulitis/abcess. His 
symptoms started approximately 1 week ago; he thinks it occurred 
___ an IV that was recently placed. He actually presented to the 
ED on ___ and had minimal pus expressed. He was discharged home 
on a 10 day course of Cipro and Bactrim. He states that he went 
to HD on ___ and may have received additional IV 
antiobiotics at the time. He presents today with worsening 
redness of the area as well as pain.
.
In the ED, initial vitals were T 98.6 BP 184/137 AR 75 RR 16 O2 
sat 100% RA. He received Vancomycin 1gm IV x1. He also received 
Lisinopril 40mg PO, Nifedipine 20mg PO, Metoprolol 100mg PO.
.
Review of systems is negative for fevers, chills, headaches, 
chest pain, SOB, abdominal pain, N/V, or worsening ___ edema. 
 
Major Surgical or Invasive Procedure:
Incision and drainage of abscess.

 
History of Present Illness:
Reason for admission: Cellulitis
.
History of Present Illness: Mr. ___ is a ___ male with DM, 
ESRD on HD (TThSa) who is being admitted for management of a R 
AC cellulitis/abcess. His symptoms started approximately 1 week 
ago; he thinks it occurred ___ an IV that was recently placed. 
He actually presented to the ED on ___ and had minimal pus 
expressed. He was discharged home on a 10 day course of Cipro 
and Bactrim. He states that he went to HD on ___ and may 
have received additional IV antiobiotics at the time. He 
presents today with worsening redness of the area as well as 
pain.
.
In the ED, initial vitals were T 98.6 BP 184/137 AR 75 RR 16 O2 
sat 100% RA. He received Vancomycin 1gm IV x1. He also received 
Lisinopril 40mg PO, Nifedipine 20mg PO, Metoprolol 100mg PO.
.
Review of systems is negative for fevers, chills, headaches, 
chest pain, SOB, abdominal pain, N/V, or worsening ___ edema. 
 
Past Medical History:
-DM2 (reported in past d/c summary) for > ___ years
-ESRD, on HD ___ at ___ Dialysis
-HTN, poorly controlled
-R foot operation - bone excision
-R foot ulcer
-Depression with h/o SA and psych hospitalizations
-Esophagitis on EGD ___ with negative H. Pylori
-h/o L flank pain since ___ with multiple admissions and 
extensive work-up, possibly due to diabetic thoracic 
polyneuropathy
-Diastolic CHF: LVEF >55% by echo
-Mod-severe cognitive deficits per neuropsych testing in ___ 
 
Social History:
___
Family History:
Diabetes in multiple relatives on both sides.  
 
Physical Exam:
Gen: No acute distress, appears tired
HEENT: MMM
Heart: RRR, no m,r,g
Lungs: CTAB
Abdomen: Soft, NT/ND, +BS
Extremities: Mild 1+ bilateral edema, area of erythema and mild 
warmth of the anterior shin of L leg; R AC-erythematous, warm to 
touch. ___ in place. Tender to touch.
 
Pertinent Results:
___ 11:13PM BLOOD WBC-5.9 RBC-4.33* Hgb-11.3* Hct-36.7* 
MCV-85 MCH-26.1* MCHC-30.8* RDW-16.9* Plt ___
___ 05:45AM BLOOD WBC-5.1 RBC-3.70* Hgb-10.0* Hct-30.8* 
MCV-83 MCH-27.1 MCHC-32.6 RDW-17.0* Plt ___
___ 11:13PM BLOOD Glucose-209* UreaN-14 Creat-3.8*# Na-137 
K-4.1 Cl-97 HCO3-26 AnGap-18
___ 07:05AM BLOOD Glucose-165* UreaN-24* Creat-5.8*# Na-139 
K-4.4 Cl-95* HCO3-31 AnGap-17
___ 05:45AM BLOOD Calcium-9.0 Phos-2.7# Mg-1.6
___ 07:05AM BLOOD Calcium-9.2 Phos-3.7 Mg-1.9 UricAcd-3.8
___ 07:05AM BLOOD Vanco-28.1*
___ 11:18PM BLOOD Lactate-1.1
.
___ 11:13 pm BLOOD CULTURE
**FINAL REPORT ___
Blood Culture, Routine (Final ___:    NO GROWTH. 
.
___ 2:33 pm SWAB
      Source: right antecubital abscess/cellulitis. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Final ___: 
      STAPH AUREUS COAG +. 
SENSITIVITIES: MIC expressed in MCG/ML                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------   0.5 S
TRIMETHOPRIM/SULFA---- <=0.5 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 

.
___ 7:10 pm BLOOD CULTURE
**FINAL REPORT ___
Blood Culture, Routine (Final ___:    NO GROWTH. 
.
___ 5:35 pm BLOOD CULTURE
**FINAL REPORT ___
Blood Culture, Routine (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
A/P: Mr. ___ is a ___ with ESRD, DM, and HTN who presents 
with an abscess of the right antecubital.
.
1)Right antecubital abscess: The abscess was thought to be 
secondary to an IV he had placed during his previous admission 
at ___. He presented with worsening erythema of the R AC but had 
not taken oral antibiotics prescribed to him.  He received IV 
antibiotics at outpatient dialysis the day prior to admission.  
During his admission he was placed on vancomycin and cefepime 
with dosing at dialysis. These medications were continued for 7 
days after discharge for a total of a 10 day course. Swabs from 
his antecubital grew coag + staph.  His blood cultures showed no 
growth. 
.
2)Hypertension: His blood pressure was poorly controlled on 
arrival.  He obtained better control when started on his home 
regimen of lisinopril, valsartan, metoprolol, and nifedipine.
.
3)ESRD on HD: He received dialysis while in the hospital and was 
continued on sevelamer and calcium acetate.
.
4)DM: His blood sugars were elevated on admission which was 
likely due to his infection.  He was continued on 70/30 insulin 
and an ISS.  His blood sugars were under good control on 
discharge.
.
5)Depression: He was restarted on celexa and methylphenidate as 
he was not taking this medication at home.  
.
6)Social issues/med non compliance: He has many financial 
burdens. He states that he did not fill his new prescriptions 
since his last discharge due to lack of funds.  He also did not 
follow up with his out-patient depression program.  Social work 
picked up his new medications for him at the time of discharge 
and he went home with his new medications in hand.
.
7)Prophylaxis: Heparin SQ for DVT prophylaxis
 
Medications on Admission:
1.Oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q6H (every 6
hours) as needed for pain.
___ 5 mg Tablet Sig: One (1) Tablet PO Q AM AND Q
NOON ().
Disp:*60 Tablet(s)* Refills:*0*
3.Citalopram 10 mg Tablet Sig: Three (3) Tablet PO once a day.
Disp:*90 Tablet(s)* Refills:*0*
4.Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
5.Valsartan 160 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
6.Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
7.Calcium Acetate 667 mg Capsule Sig: One (1) Capsule PO TID
W/MEALS (3 TIMES A DAY WITH MEALS).
8.Glycopyrrolate 1 mg Tablet Sig: One (1) Tablet PO TID (3
times a day).
9.Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig:
One (1) Adhesive Patch, Medicated Topical once a day.
10.Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).
___ 10 mg Tablet Sig: 0.5 Tablet PO qachs.
Disp:*15 Tablet(s)* Refills:*0*
12.Sevelamer Carbonate 800 mg Tablet Sig: Two (2) Tablet PO TID
W/MEALS (3 TIMES A DAY WITH MEALS).
___ Tartrate 25 mg Tablet Sig: Five (5) Tablet PO
twice a day.
14.Nifedipine 60 mg Tablet Sustained Release Sig: One (1)
Tablet Sustained Release PO BID (2 times a day).
15.Insulin 70/30 4 units QAM, 6 units QPM 
 
Discharge Medications:
1. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. Valsartan 160 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
4. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
5. Methylphenidate 5 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day): qam and noon.  
6. Calcium Acetate 667 mg Capsule Sig: One (1) Capsule PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
7. Sevelamer Carbonate 800 mg Tablet Sig: Two (2) Tablet PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
8. Metoprolol Tartrate 25 mg Tablet Sig: Five (5) Tablet PO 
twice a day.  
9. Nifedipine 60 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO BID (2 times a day).  
10. Insulin
Please continue previous home dosing of insulin.
11. Glycopyrrolate 1 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day).  
12. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.  
13. Vancomycin in Dextrose 500 mg/100 mL Piggyback Sig: 1.5 for 
a total of 750mg  Intravenous dose with dialysis for 7 days: 
last dose ___ at HD.
Disp:*qs * Refills:*0*
14. Ceftazidime 2 gram Recon Soln Sig: One (1) dose Intravenous 
with HD for 7 days: Pls give 2 grams on ___ and ___, and 3grams 
on ___.
Disp:*qs * Refills:*0*
15. vanco trough
pls have vancomycin trough check at HD goal ___. Citalopram 10 mg Tablet Sig: Three (3) Tablet PO once a day. 
 
17. Metoclopramide 5 mg Tablet Sig: One (1) Tablet PO qachs.  
18. Physical therapy
Out patient physical therapy for adhesive capsilitis
19. Wound care
Wound care: 
Site: Right antecubital site 
Comment: Clean with wound cleanser and use stream setting. Fill 
site with piece of aquacel ag rope. Wrap site with Kling/Kerlex. 

Change daily
.
Wound care: 
Site: left leg dry brown abrasion with mild erythema 
Cleansing agent: Other
Comment: clean site with wound cleanser on spray setting and 
then pat dry. Use ___ aquacel ag sheet and mositen slightly with 
NS cover with dry gauze can discontinue after erythema resolves 
and use adaptic daily. Then wrap area with kling/kerlix. Change 
daily. 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Discharge Diagnosis  
Primary Diagnosis:
-Right antecubital cellulitis and abscess
.
Secondary Diagnosis
-Depression
-Fibromyalgia
-Diabetes
-Likely gastroparesis not confirmed
-End stage renal disease
-Hypertension
-Adhesive capsilitis

 

 
Discharge Condition:
Stable. Receeding erythema from border drawn.

 
Discharge Instructions:
You were admitted with a cellulitis and abscess on your right 
arm.  You had incision and drainage in the emergency department
and you were started on vancomycin and ciprofloxacin.  At 
dialysis you were changed from ciprofloxacin as an antibiotic to 
ceftazidime.  You did not need an additional dose of vancomycin 
because your blood levels of vancomycin were high.  You will get 
vancomycin and ceftazidime at dialysis for a total of a 10 day 
course with the last dose next ___.  You were having 
trouble getting your prescriptions filled so the new 
prescriptions from your last hoapitalization were picked up for 
you.  It is extremely important you take all of your prescribed 
medications. If you have any trouble getting any of your 
medication please call your primary care doctor Dr. ___ 
___ or call the ___ floor at ___ and ask to 
talk to Dr. ___.
.
Weigh yourself every morning, call MD if weight > 3 lbs.
Adhere to 2 gm sodium diet
.
You have had a lot of medication changes in the last few weeks. 
Please take only those medications on the attached sheets.
.
Please seek medical attention if you experience worsening of 
redness of your cellulitis, increased pus at the site of your 
cellulitis, your cellulitis does not continue to improve, 
headaches, blurry vision, blood in your urine, blood in your 
stool, chest pain, shortness of breath or any new concerning 
symptom.
.
A side effect of citalopram can include decreased orgasm, 
impotence, and fatigue. Please contact Dr. ___ you 
experience these symptoms or if you have any thoughts of hurting 
yourself or anyone else.
 
Followup Instructions:
___